US08604038B2
A solution of tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate (0.049 g, 0.087 mmol) in trifluorotoluene (2 mL) was cooled to 0° C. Tert-butylamine (0.046 mL, 0.44 mmol) was added, followed by p-toluenesulfonic anhydride (0.057 g, 0.18 mmol). After 1 hour, the reaction was diluted with EtOAc (50 mL) and washed with water (15 mL) and brine (15 mL). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography with 0-45% EtOAc/hexanes to afford 47 mg of impure tert-butyl (2R,5S)-2-[(R)-[6-(tert-butylamino)pyridin-3-yl]{[tert-butyl(dimethyl)silyl]oxy}methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate. LC-MS=6123 (M−H)+.

reactant | tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(1-oxidopyridin-3-yl)methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 0.087 mmol, 0.049 g | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)C=1C=[N+](C=CC1)[O-] | C30H44N2O6Si
reactant | Tert-butylamine | 0.44 mmol, 0.046 mL | C(C)(C)(C)N | C4H11N
reactant | p-toluenesulfonic anhydride | 0.18 mmol, 0.057 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | trifluorotoluene | 2 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-butyl (2R,5S)-2-[(R)-[6-(tert-butylamino)pyridin-3-yl]{[tert-butyl(dimethyl)silyl]oxy}methyl]-5-[4-(methoxycarbonyl)benzyl]pyrrolidine-1-carboxylate | 47 mg | C(C)(C)(C)NC1=CC=C(C=N1)[C@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(=O)OC)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C34H53N3O5Si
